### PR TITLE
feat: the infinite adele ring of a number field

### PR DESCRIPTION
**Pull request by smmercuri**
This PR contains the following:
- The completion of a number field at an infinite place (`NumberTheory.NumberField.Completion`).
- The proof that the completion of a number field at an infinite place is locally compact (`NumberTheory.NumberField.Completion`).
- Proofs that the completion of a number field place is isomorphic to the complex/real numbers according to whether the infinite place is complex/real (`NumberTheory.NumberField.Completion`).
- The infinite adele ring defined as the locally compact finite product of the completions of a number field over its infinite places (`NumberTheory.NumberField.InfiniteAdeleRing`).
- Helper result: the pullback of a completable topological field under a field embedding defines a completable topological field (`Topology.Algebra.UniformField`).
- Helper result: the uniform completion of a completable topological normed field is a normed field (`Analysis.NormedSpace.Completion`).

---

- [x] depends on: #15064
- [x] depends on: #15068
- [x] depends on: #15075
- [x] depends on: #15094
- [x] depends on: #16483

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/NormedSpace/Completion.lean [hunk 1]
```diff
@@ -111,6 +112,25 @@ instance [SeminormedCommRing A] [NormedAlgebra 𝕜 A] [UniformContinuousConstSM
...
 
+instance instNormedField [NormedField A] [CompletableTopField A] :
+    NormedField (UniformSpace.Completion A) where
+  toField := UniformSpace.Completion.instField
+  dist_eq := fun x y => by
+      refine Completion.induction_on₂ x y ?_ ?_ <;> clear x y
+      · refine isClosed_eq (Completion.uniformContinuous_extension₂ _).continuous ?_
+        exact Continuous.comp Completion.continuous_extension continuous_sub
+      · intro x y
+        rw [← Completion.coe_sub, norm_coe, Completion.dist_eq, dist_eq_norm]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/NormedSpace/Completion.lean:123]:
```suggestion
  dist_eq x y := by
    refine Completion.induction_on₂ x y ?_ ?_ <;> clear x y
    · refine isClosed_eq (Completion.uniformContinuous_extension₂ _).continuous ?_
      exact Continuous.comp Completion.continuous_extension continuous_sub
    · intro x y
      rw [← Completion.coe_sub, norm_coe, Completion.dist_eq, dist_eq_norm]
```

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 2]
```diff
@@ -1005,6 +1007,143 @@ lemma card_eq_card_isUnramifiedIn [NumberField k] [IsGalois k K] :
...
+noncomputable def uniformSpace : UniformSpace K :=
+  v.normedField.toUniformSpace
+
+/-- The uniform additive group structure of a number field induced by an infinite place. -/
+theorem uniformAddGroup : @UniformAddGroup K v.uniformSpace _ :=
+  @SeminormedAddCommGroup.to_uniformAddGroup _ (
+    @NormedAddCommGroup.toSeminormedAddCommGroup _ (
+      @NonUnitalNormedRing.toNormedAddCommGroup _ (
+        @NormedRing.toNonUnitalNormedRing _ (
+          @NormedDivisionRing.toNormedRing _ v.normedDivisionRing))))
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1035]: Can this be
```suggestion
theorem uniformAddGroup : @UniformAddGroup K v.uniformSpace _ := by
  letI := v.normedDivisionRing
  infer_instance
```
?

**Review by Ruben-VandeVelde — COMMENTED** [review]
I don't know anything about the mathematics, so just some superficial comments

File: Mathlib/NumberTheory/NumberField/Embeddings.lean (hunk 2 above)
Comment (smmercuri) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean]: yes, that's much nicer than chasing instances, thanks!

File: Mathlib/Analysis/NormedSpace/Completion.lean (hunk 1 above)
Comment (smmercuri) [reply Mathlib/Analysis/NormedSpace/Completion.lean]: Fixed, and also for the `norm_mul'` field

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 3]
```diff
@@ -1005,6 +1007,140 @@ lemma card_eq_card_isUnramifiedIn [NumberField k] [IsGalois k K] :
...
+
+/-- The topological division ring structure of a number field induced by an infinite place. -/
+theorem topologicalDivisionRing :
+    @TopologicalDivisionRing K _ v.topologicalSpace :=
+  v.normedDivisionRing.to_topologicalDivisionRing
+
+/-- The topological ring structure of a number field induced by an infinite place. -/
+theorem topologicalRing : @TopologicalRing K v.topologicalSpace _ :=
+  @TopologicalDivisionRing.toTopologicalRing _ _ v.topologicalSpace
+    v.topologicalDivisionRing
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1046]: Are these really needed?

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 4]
```diff
@@ -1005,6 +1007,140 @@ lemma card_eq_card_isUnramifiedIn [NumberField k] [IsGalois k K] :
...
+
+/-- The embedding associated to an infinite place is a uniform embedding. -/
+theorem uniformEmbedding : @UniformEmbedding _ _ v.uniformSpace _ v.embedding := by
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1049]:
```suggestion
theorem uniformEmbedding : letI := v.normedField; UniformEmbedding v.embedding := by
```

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 5]
```diff
@@ -1005,6 +1007,140 @@ lemma card_eq_card_isUnramifiedIn [NumberField k] [IsGalois k K] :
...
+  @UniformInducing.uniformContinuous _ _ v.uniformSpace _ _ v.uniformInducing
+
+/-- The embedding associated to an infinite place of a number field is continuous. -/
+theorem continuous : @Continuous _ _ v.topologicalSpace _ v.embedding :=
+  @UniformContinuous.continuous _ _ v.uniformSpace _ _ v.uniformContinuous
+
+/-- The uniform structure induced by an infinite place of a number field defines a
+completable topological field. -/
+theorem completableTopField : @CompletableTopField K _ v.uniformSpace :=
+  @UniformSpace.comap_completableTopField _ _ _ _ _ _ v.normedField.instT0Space _
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1072]: Similarly, I don't think these are needed. The point of type class inference is to find these for you.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 6]
```diff
@@ -1005,6 +1007,140 @@ lemma card_eq_card_isUnramifiedIn [NumberField k] [IsGalois k K] :
...
+
+/-- The completion of a number field at an infinite place. -/
+def completion := @UniformSpace.Completion K v.normedDivisionRing.toUniformSpace
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1075]:
```suggestion
def completion := letI := v.normedSpace; UniformSpace.Completion K
```

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 7]
```diff
@@ -1005,6 +1007,140 @@ lemma card_eq_card_isUnramifiedIn [NumberField k] [IsGalois k K] :
       Finset.card (Finset.univ.filter <| IsUnramifiedIn K (k := k))ᶜ * (finrank k K / 2) := by
   rw [← card_isUnramified, ← card_isUnramified_compl, Finset.card_add_card_compl]
 
+variable {K : Type*} [Field K] [NumberField K] (v : InfinitePlace K)
+
+noncomputable instance : Inhabited (InfinitePlace K) :=
+  ⟨Classical.choice (instNonemptyInfinitePlaceOfNumberField K)⟩
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1013]: Why do you need this (and not `Nonempty`)

**Review by erdOne — COMMENTED** [review]
I only reviewed the first half of that file, but in general please use `letI` instead of excessive lemmas or `@`-notations.

File: Mathlib/NumberTheory/NumberField/InfiniteAdeleRing.lean [hunk 8]
```diff
@@ -0,0 +1,69 @@
+/-
+Copyright (c) 2024 Salvatore Mercuri, María Inés de Frutos-Fernández. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Salvatore Mercuri, María Inés de Frutos-Fernández
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/InfiniteAdeleRing.lean:4]: BTW is this PR a collaboration with María? You may add "Co-authored-by" in the PR message.

File: Mathlib/NumberTheory/NumberField/InfiniteAdeleRing.lean [hunk 9]
```diff
@@ -0,0 +1,69 @@
...
+end DerivedInstances
+
+instance topologicalSpace : TopologicalSpace (infiniteAdeleRing K) := Pi.topologicalSpace
+
+instance topologicalRing : TopologicalRing (infiniteAdeleRing K) := Pi.instTopologicalRing
+
+/-- The global embedding of a number field into its infinite adele ring,
+sending `x ∈ K` to `(x)ᵥ`. -/
+def globalEmbedding : K →+* infiniteAdeleRing K :=
+  Pi.ringHom (fun (v : InfinitePlace K) => InfinitePlace.Completion.coeRingHom v)
```
[the remark this answers is not in the document]
Comment (smmercuri) [reply Mathlib/NumberTheory/NumberField/InfiniteAdeleRing.lean]: Yes, have now added the algebra instance and simp lemma, also algebra instance for `v.completion`.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean (hunk 3 above)
Comment (smmercuri) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean]: I had these in because I couldn't get the type class inferencing to work, but the `letI` approach resolves this nicely and tidies it up a lot, thanks!

File: Mathlib/NumberTheory/NumberField/Embeddings.lean (hunk 4 above)
Comment (smmercuri) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean]: Fixed.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean (hunk 5 above)
Comment (smmercuri) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean]: The first four are gone now. I have left `completableTopField` separate there since it has some non-trivial proof going on in `comap_completableTopField`, which itself is included elsewhere in this PR. But this could also be removed with a `haveI` in the `NormedField v.completion` instance further down, if preferred.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean (hunk 6 above)
Comment (smmercuri) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean]: Fixed

File: Mathlib/NumberTheory/NumberField/Embeddings.lean (hunk 7 above)
Comment (smmercuri) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean:1013]: This instance is used for the `Nontrivial` instance in `InfiniteAdeleRing.lean`, which itself is needed for injectivity of the global embedding.

File: Mathlib/NumberTheory/NumberField/InfiniteAdeleRing.lean (hunk 8 above)
Comment (smmercuri) [reply Mathlib/NumberTheory/NumberField/InfiniteAdeleRing.lean:4]: This is not a direct collaboration as such, but María Inés originally formalised the infinite adele ring with a different approach a couple of years ago before we had the embeddings API, and has helped with advice on my current approach which is why I put the file as co-authored, but the code in this PR is all my own. Not sure what the norm for attribution in this case would be!

Comment (erdOne) [reply Mathlib/NumberTheory/NumberField/InfiniteAdeleRing.lean:4]: Fair enough. I thought María Inés had done this a while ago and was about to ask you to collaborate with her until I saw this.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean (hunk 7 above)
Comment (erdOne) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean:1013]: Then you should use `Pi.nontrivial_at` there instead. Inhabited is usually only used if there is a distinguished element.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean (hunk 5 above)
Comment (erdOne) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean]: `comap_completableTopField` could be an instance. Then this is not necessary.

File: Mathlib/NumberTheory/NumberField/InfiniteAdeleRing.lean [hunk 10]
```diff
@@ -0,0 +1,70 @@
...
+
+instance topologicalSpace : TopologicalSpace (infiniteAdeleRing K) := Pi.topologicalSpace
+
+instance topologicalRing : TopologicalRing (infiniteAdeleRing K) := Pi.instTopologicalRing
+
+instance : Algebra K (infiniteAdeleRing K) := Pi.algebra _ _
+
+/-The global embedding of a number field into its infinite adele ring,
+sending `x ∈ K` to `(x)ᵥ`. -/
+def globalEmbedding : K →+* infiniteAdeleRing K := Algebra.toRingHom
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/InfiniteAdeleRing.lean:59]:
```suggestion
/-- The global embedding of a number field into its infinite adele ring,
sending `x ∈ K` to `(x)ᵥ`. -/
abbrev globalEmbedding : K →+* infiniteAdeleRing K := algebraMap K (infiniteAdeleRing K)
```
`algebraMap` has more API support.

File: Mathlib/Topology/Algebra/UniformField.lean [hunk 11]
```diff
@@ -177,6 +177,28 @@ instance : TopologicalDivisionRing (hat K) :=
 
 end Completion
 
+/-- The pullback of a completable topological field along a ring homomorphism
+is a completable topological field. -/
+theorem comap_completableTopField {α β : Type*}
+    [Field β] [Field α] {f : α →+* β} [b : UniformSpace β]
+    [@T0Space α (UniformSpace.comap f b).toTopologicalSpace] [CompletableTopField β] :
+    @CompletableTopField _ _ (UniformSpace.comap f b) := by
+  have h_ui : @UniformInducing _ _ (UniformSpace.comap f b) _ f := by
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/UniformField.lean:186]: You can also
`have inst := UniformSpace.comap f b` in the proof to get rid of the `@`s.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 12]
```diff
@@ -1005,6 +1007,77 @@ lemma card_eq_card_isUnramifiedIn [NumberField k] [IsGalois k K] :
...
+noncomputable instance : NormedField v.completion :=
+  letI := v.normedField; letI := v.completableTopField; UniformSpace.Completion.instNormedField K
+
+instance : CompleteSpace v.completion :=
+  letI := v.normedField; UniformSpace.Completion.completeSpace K
+
+noncomputable instance : Inhabited v.completion := ⟨0⟩
+
+noncomputable instance : Coe K v.completion :=
+  letI := v.normedField; (inferInstance : Coe K (UniformSpace.Completion K))
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1044]:
```suggestion
  letI := v.normedField; inferInstanceAs (Coe K (UniformSpace.Completion K))
```
Looks nicer though it saves no chars.

File: Mathlib/NumberTheory/NumberField/InfiniteAdeleRing.lean (hunk 10 above)
Comment (smmercuri) [reply Mathlib/NumberTheory/NumberField/InfiniteAdeleRing.lean]: Fixed.

File: Mathlib/Topology/Algebra/UniformField.lean (hunk 11 above)
Comment (smmercuri) [reply Mathlib/Topology/Algebra/UniformField.lean]: Done.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean (hunk 7 above)
Comment (smmercuri) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean]: Gotcha, changed that and removed `Inhabited`.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean (hunk 5 above)
Comment (smmercuri) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean]: Makes sense, fixed that.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 13]
```diff
@@ -1005,6 +1007,74 @@ lemma card_eq_card_isUnramifiedIn [NumberField k] [IsGalois k K] :
...
+  letI := v.normedField; ⟨uniformInducing_iff_uniformSpace.2 rfl, v.embedding.injective⟩
+
+/-- The completion of a number field at an infinite place. -/
+def completion :=
+  letI := v.normedField; UniformSpace.Completion K
+
+namespace Completion
+
+instance : NormedField v.completion :=
+  letI := v.normedField; letI := UniformSpace.comap_completableTopField v.embedding;
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1030]:
```suggestion
  letI := v.normedField
  letI := UniformSpace.comap_completableTopField v.embedding
```

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 14]
```diff
@@ -1005,6 +1007,74 @@ lemma card_eq_card_isUnramifiedIn [NumberField k] [IsGalois k K] :
...
+  · rw [extensionEmbedding, UniformSpace.Completion.extensionHom, RingHom.coe_mk,
+      MonoidHom.coe_mk, OneHom.coe_mk, UniformSpace.Completion.dist_eq]
+    simp only [UniformSpace.Completion.extension_coe v.uniformEmbedding.uniformContinuous]
+    exact Isometry.dist_eq v.uniformEmbedding.to_isometry _ _
+
+variable (v)
+
+/-- The embedding `v.completion → ℂ` is a closed embedding. -/
+theorem closedEmbedding : ClosedEmbedding (extensionEmbedding v) :=
+  (Isometry.of_dist_eq extensionEmbedding_dist_eq).closedEmbedding
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1068]: I think `Isometry.of_dist_eq extensionEmbedding_dist_eq` deserves its own lemma.

File: Mathlib/NumberTheory/NumberField/InfiniteAdeleRing.lean [hunk 15]
```diff
@@ -0,0 +1,71 @@
...
+
+/-- The global embedding of a number field into its infinite adele ring,
+sending `x ∈ K` to `(x)ᵥ`. -/
+abbrev globalEmbedding : K →+* infiniteAdeleRing K := algebraMap K (infiniteAdeleRing K)
+
+@[simp]
+theorem globalEmbedding_apply (x : K) : globalEmbedding K x v = (x : v.completion) := rfl
+
+/-- The infinite adele ring is locally compact. -/
+theorem locallyCompactSpace : LocallyCompactSpace (infiniteAdeleRing K) :=
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/InfiniteAdeleRing.lean:66]:
```suggestion
instance locallyCompactSpace : LocallyCompactSpace (infiniteAdeleRing K) :=
```

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 16]
```diff
@@ -1005,6 +1007,74 @@ lemma card_eq_card_isUnramifiedIn [NumberField k] [IsGalois k K] :
...
+namespace Completion
+
+instance : NormedField v.completion :=
+  letI := v.normedField; letI := UniformSpace.comap_completableTopField v.embedding;
+  UniformSpace.Completion.instNormedField K
+
+instance : CompleteSpace v.completion :=
+  letI := v.normedField; UniformSpace.Completion.completeSpace K
+
+instance : Inhabited v.completion := ⟨0⟩
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1036]: Is this needed?

File: Mathlib/Topology/Algebra/UniformField.lean [hunk 17]
```diff
@@ -177,6 +177,22 @@ instance : TopologicalDivisionRing (hat K) :=
 
 end Completion
 
+/-- The pullback of a completable topological field along a ring homomorphism
+is a completable topological field. -/
+instance comap_completableTopField {α β : Type*}
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/UniformField.lean:182]: After thinking about this a bit more, this should be stated in terms of `Inducing`.

Comment (smmercuri) [reply Mathlib/Topology/Algebra/UniformField.lean:182]: Do you mean in terms of `UniformInducing`?

File: Mathlib/NumberTheory/NumberField/Embeddings.lean (hunk 16 above)
Comment (smmercuri) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean:1036]: I don't use it specifically, but seemed like a standard instance to include in this case. Mainly, I saw that it was included for the finite completions [`IsDedekindDomain.HeightOneSpectrum.instInhabitedAdicCompletion`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/DedekindDomain/AdicValuation.html#IsDedekindDomain.HeightOneSpectrum.instInhabitedAdicCompletion)

File: Mathlib/Topology/Algebra/UniformField.lean (hunk 17 above)
Comment (erdOne) [reply Mathlib/Topology/Algebra/UniformField.lean:182]: I initially meant `Inducing` but I guess `UniformInducing` is the same thing?

Comment (smmercuri) [reply Mathlib/Topology/Algebra/UniformField.lean:182]: It would need to be `UniformInducing` I think, since this guarantees the uniform structure is the pullback uniform structure, whereas `Inducing` only guarantees that the topological space is the pullback.

Comment (smmercuri) [reply Mathlib/Topology/Algebra/UniformField.lean]: I have addressed this in the latest commit, but when I tried to make `UniformInducing.completableTopField` an instance I get the following error: 
```cannot find synthesization order for instance @completableTopField with type
  ∀ {α : Type u_3} {β : Type u_4} [inst : Field β] [b : UniformSpace β] [inst_1 : CompletableTopField β]
    [inst_2 : Field α] {f : α →+* β} [inst_3 : UniformSpace α] [inst_4 : T0Space α],
    UniformInducing ⇑f → CompletableTopField α
all remaining arguments have metavariables:
  Field ?β
  UniformSpace ?β
  @CompletableTopField ?β ?inst✝ ?b```
```
Not sure if that is avoidable, it seems unable to infer instance for `β`. For now, I have turned this into a `theorem` and kept the `comap_completableTopField` as an instance.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 18]
```diff
@@ -1005,6 +1007,80 @@ lemma card_eq_card_isUnramifiedIn [NumberField k] [IsGalois k K] :
...
+
+/-- The completion of a number field at an infinite place. -/
+def completion :=
+  letI := v.normedField; UniformSpace.Completion K
+
+namespace Completion
+
+instance : NormedField v.completion :=
+  letI := v.normedField
+  letI := UniformSpace.comap_completableTopField v.embedding
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1031]:
```suggestion
```
Should be possible as it is already an instance.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 19]
```diff
@@ -1005,6 +1007,79 @@ lemma card_eq_card_isUnramifiedIn [NumberField k] [IsGalois k K] :
...
+
+variable (v)
+
+/-- The embedding `v.completion → ℂ` is an isometry. -/
+theorem isometry_extensionEmbedding :
+    Isometry (extensionEmbedding v) :=
+  Isometry.of_dist_eq extensionEmbedding_dist_eq
+
+/-- The embedding `v.completion → ℂ` is a closed embedding. -/
+theorem closed_extensionEmbedding: ClosedEmbedding (extensionEmbedding v) :=
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1072]:
```suggestion
theorem closedEmbedding_extensionEmbedding: ClosedEmbedding (extensionEmbedding v) :=
```

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 20]
```diff
@@ -1005,6 +1007,79 @@ lemma card_eq_card_isUnramifiedIn [NumberField k] [IsGalois k K] :
...
+  (isometry_extensionEmbedding v).closedEmbedding
+
+/-- The completion of a number field at an infinite place is locally compact. -/
+instance locallyCompactSpace : LocallyCompactSpace (v.completion) :=
+  (closed_extensionEmbedding v).locallyCompactSpace
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1077]:
```suggestion
  (closedEmbedding_extensionEmbedding v).locallyCompactSpace
```

**Review by erdOne — APPROVED** [review]
LGTM. 
Maybe @faenuccio would like to have a look?

**Comment by faenuccio** [comment]
> * he uniform completion of a completable topological normed field is a normed field

I am having a look, and I am trying to understand to what extent some of the arguments are generalizable to non-archimedean completions as well and if there is room for common arguments/code.

**Comment by faenuccio** [comment]
> Actually, now that I think about it, there is an argument to be made that we should define the completion of `K` at the infinite place `w` to be either `ℝ` or `ℂ` and then prove that it has the right properties. That might make things easier later on. I guess it all depends on what applications we have in mind but it is, I think, something that should be discussed. In this case, the `infiniteAdeleRing` would be essentially the same as the mixed space that appears here [NumberField.mixedEmbedding](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.html#NumberField.mixedEmbedding)

Yes, I agree. As it stands, it seems we are defining the same object twice.

**Comment by mariainesdff** [comment]
> Actually, now that I think about it, there is an argument to be made that we should define the completion of `K` at the infinite place `w` to be either `ℝ` or `ℂ` and then prove that it has the right properties

This sounds reasonable to me. @kbuzzard , what do you think?

**Comment by smmercuri** [comment]
> Actually, now that I think about it, there is an argument to be made that we should define the completion of `K` at the infinite place `w` to be either `ℝ` or `ℂ` and then prove that it has the right properties. That might make things easier later on. I guess it all depends on what applications we have in mind but it is, I think, something that should be discussed. In this case, the `infiniteAdeleRing` would be essentially the same as the mixed space that appears here [NumberField.mixedEmbedding](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.html#NumberField.mixedEmbedding)

I thought about doing something similar while working on this and it is certainly an option. I guess one argument for the approach in this PR is that `w.completion` inherits all the `UniformSpace.Completion` API. E.g., any uniform continuous function on `K` can then be extended to a uniform continuous function on `w.completion`, which I could imagine might be useful further down the line for functions on adele rings. But perhaps that can also be achieved with the `mixedEmbedding` approach. Anyway I agree that, if we do proceed with this PR, at some point we should show that `w.completion` is isomorphic to `ℝ` or `ℂ`, and therefore that the infinite adele ring is isomorphic to `ℝ ^ r₁ × ℂ ^ r₂`.

**Comment by faenuccio** [comment]
And I think that it makes more sense to decide once and for all which of the two approaches we take, rather than using both and then show an equivalence. @xroblot , do you think that it would be possible to replace the `mixed space` approach with the infinite adeles and working with them altogether?

**Comment by erdOne** [comment]
What does "define the completion of K at the infinite place w to be either ℝ or ℂ" mean?
The most naive approach
```
def NumberField.InfinitePlace.Completion : Type _ :=
  letI := Classical.propDecidable; if v.IsComplex then ℂ else ℝ
```
isn't defeq to  `ℂ` nor `ℝ` and you'll have to manually define all the instances. Hence I don't see much benefit of it.

Or do you mean that we shouldn't have this def at all and just case split on `IsComplex` and work with ℝ or ℂ directly (as in the mixed-space)?

**Comment by erdOne** [comment]
Thinking about this a bit more, we should have `v.Completion` for every `v : AbsoluteValue K ℝ` and `NumberField.InfinitePlace.Completion` should just be `v.1.Completion`.

**Comment by xroblot** [comment]
Yes, I think Andrew makes a good point. There is probably no nice way to define the completion as being `ℝ` or `ℂ` and working separately on real and complex places (as it's done for `mixedEmbedding`) is very messy and cumbersome.

**Comment by mariainesdff** [comment]
> And I think that it makes more sense to decide once and for all which of the two approaches we take, rather than using both and then show an equivalence. @xroblot , do you think that it would be possible to replace the `mixed space` approach with the infinite adeles and working with them altogether?

Yes, I think the key point is that we should agree on a "main" approach (although I would not be opposed to showing the equivalence to the other one).

**Comment by xroblot** [comment]
Here is what I would suggest:

1. Make a new file `Completion`
2. Prove everything that you can in the general case following Andrew's suggestion above
3. Specialize to the infinite places for the results that do not hold in the general case
4. Prove that the combination of the "right" combination of maps give an isomorphism between the completion at an infinite place and ℝ or ℂ (you should take a look at the proof of [NumberField.InfinitePlace.mk_eq_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/NumberField/Embeddings.html#NumberField.InfinitePlace.mk_eq_iff))
5. Define the infinite Adele ring as you did and prove that it is isomorphic (using the maps in step 4) to the mixed space.

**Comment by xroblot** [comment]
> And I think that it makes more sense to decide once and for all which of the two approaches we take, rather than using both and then show an equivalence. @xroblot , do you think that it would be possible to replace the `mixed space` approach with the infinite adeles and working with them altogether?

I am not sure it would be a good idea to replace the mixed space by the infinite adele ring. Most of the things we do with the mixed space is volume computations and for that it is better to have a very explicit construction for it. And defining the infinite adele ring as the mixed space does not seem such a good ideal after all too. 
At this point, I think it is better to have two distinct objects and some kind of "canonical way" to go from one to the other as I suggested above.

**Comment by xroblot** [comment]
> OK, for this you are certainly more competent, so I will be happy to follow your advice, although it would have been nice to observe that the infinite adeles come with a Haar measure and one can try to use it for the (co)volume computations. 

Well, actually, it is the other way around. One should prove that the map from the infinite adeles to the mixed space is measure preserving to use the fact that volume computations are easier in the mixed space.

**Comment by faenuccio** [comment]
> Thanks for the suggestions all, and @xroblot that plan makes a lot of sense. I will follow it! I assume we are OK with leaving this PR open while I do?
> 
> And yes agree with @faenuccio it would definitely be nice to have the Haar measure for the infinite adele ring, but assume this will also be able to be transferred to it from establishing an appropriate isomorphism between it and the mixed embedding.

Yes, you can add the "WIP" label, and then leave it open while you work on it.

**Comment by smmercuri** [comment]
@xroblot @erdOne this is now ready for review again following the suggestions and tips

**Comment by riccardobrasca** [comment]
The PR is quite big, is it possible to split it?
